* C:\Users\Quent\Documents\EPSA\git\Bench01-EPSA\01-Maquettes Primitives\TSAL\détectionv2.asc
V§air N021 0 PULSE(0 10 3 0 0 2)
V§relai N022 0 PULSE(0 10 4 0 0 2)
XU2 0 N005 N003 N010 N011 N005 NC_01 N004 NE555
C1 N005 0 1µ
C2 N011 0 1µ
R7 N003 N005 160k
V6 N004 0 1V
A2 N009 0 N012 0 N013 N018 N010 0 OR
D§Verte N020 0 D
XU3 détec 0 N007 N008 NC_02 4N25
V§LV_Valkyriz N007 0 12
R8 N008 0 10k
XU4 N021 0 N015 N014 NC_03 4N25
V§LV_Valkyriz1 N015 0 12
R4 N014 0 10k
XU5 N022 0 N016 N017 NC_04 4N25
V§LV_Valkyriz2 N016 0 12
R9 N017 0 10k
XU6 N018 0 N019 N020 NC_05 4N25
V§LV_Valkyriz3 N019 0 12
R10 N020 0 10k
D§Rouge N002 0 D
XU7 N003 0 N001 N002 NC_06 4N25
V§LV_Valkyriz4 N001 0 12
R11 N002 0 10k
R12 N009 N008 14k
R13 N009 0 10k
R14 N012 0 10k
R15 N012 N014 14k
R16 N013 N017 14k
R17 N013 0 10k
V1 N006 0 PULSE(0 2 0 0 0 0.5 1)
R1 0 détec 10
D1 N006 détec D
.model D D
.lib C:\Users\Quent\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5 0
.lib 4N25.sub
.lib NE555.sub
.backanno
.end
